US08097610B2
Preparation of 4-[2-(t-butyldimethyl silanyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carboxaldehyde
To a solution of 4-[2-(t-butyldimethyl silyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile (600 mg) in 1,2-dimethoxyethane (12 mL) was added diisobutylaluminum hydride (1.0 M toluene solution, 6.39 mL) at 0° C. The mixture was stirred for 4 hours. To the reaction solution was added aqueous citric acid solution and extracted with ethyl acetate. The organic layer was sequentially washed with aqueous citric acid solution, water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (526 mg). Yield: 87%.

reactant | 4-[2-(t-butyldimethyl silyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile | 600 mg | C(C)(C)(C)[Si](OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C#N)(C)C | C22H30F3N3OSSi
reactant | diisobutylaluminum hydride | 1.0 M, 6.39 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 12 mL | COCCOC | C4H10O2
product | 4-[2-(t-butyldimethyl silanyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carboxaldehyde | 526 mg, Yield: 87% | C(C)(C)(C)[Si](OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C=O)(C)C | C22H31F3N2O2SSi
